US04225527
100 g. of 2,6-dichloro-4-methoxy-5-methyl-benzyl-triphenylphosphonium chloride, prepared from 52 g. of 2,6-dichloro-4-methoxy-3-methyl-benzyl chloride and 57 g. of triphenylphosphine, are treated with 42 g. of 7-formyl-3-methyl-octa-2,4,6-trien-1-oic acid ethyl ester. After the addition of 120 ml. of 1,2-butylene oxide, the resulting mixture is heated to 80°-85° C. for 4 hours while stirring. The mixture is diluted with toluene/hexane (1:1 parts by volume) and exhaustively extracted with methanol/water (60:40 parts by volume). The resulting solution is evaporated under reduced pressure. The oily residue is purified by adsorption on silica gel using toluene for the elution. 9-(2,6-dichloro-4-methoxy-5-methyl-phenyl)-3,7-dimethyl-nona-2,4,6,8-tetraen-1-oic acid ethyl ester is obtained from the eluate and melts at 100°-101° C. after recrystallization from benzene/hexane (50:50 parts by volume).

reactant | 2,6-dichloro-4-methoxy-5-methyl-benzyl-triphenylphosphonium chloride | [Cl-].ClC1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=C(C(=C1)OC)C)Cl
reactant | 2,6-dichloro-4-methoxy-3-methyl-benzyl chloride | ClC1=C(CCl)C(=CC(=C1C)OC)Cl | C9H9Cl3O
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 7-formyl-3-methyl-octa-2,4,6-trien-1-oic acid ethyl ester | C(C)OC(C=C(C=CC=C(C)C=O)C)=O | C12H16O3
reactant | 1,2-butylene oxide | C1C(CC)O1 | C4H8O
solvent | toluene hexane | C1(=CC=CC=C1)C.CCCCCC
product | 9-(2,6-dichloro-4-methoxy-5-methyl-phenyl)-3,7-dimethyl-nona-2,4,6,8-tetraen-1-oic acid ethyl ester | C(C)OC(C=C(C=CC=C(C=CC1=C(C=C(C(=C1Cl)C)OC)Cl)C)C)=O | C21H24Cl2O3
